data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_695174_0,[C:1]([C:3]([O:6][H:10])/[N:7]=[C:2](/[O:5][H:9])[N:8][N:4]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C@:3]1([O:6][H:10])[N:7]=[C:2]([O:5][H:9])[N:8]1[N:4]([H:11])[H:12])([H:13])([H:14])[H:15],33.72059500004184
MR_421513_0,[C:1]([C:2]([O:7][H:8])([H:14])[H:15])([N:4]([C:3]([H:16])([H:17])[H:18])[H:9])([N:5]([H:10])[H:12])[N:6]([H:11])[H:13]>>[C:1]([C:2]([N:4]([C:3]([H:16])([H:17])[H:18])[H:9])([H:14])[H:15])([N:5]([H:10])[H:12])([N:6]([H:11])[H:13])[O:7][H:8],68.92146249998461
MR_544436_0,[C:1]([C:2]([O:7][H:10])([H:15])[H:16])([C:3]([O:6][H:9])=[O:8])([N:4]([H:11])[H:12])[N:5]([H:13])[H:14]>>[C:1]([C:2]([C:3]([O:6][H:9])=[O:8])([H:15])[H:16])([N:4]([H:11])[H:12])([N:5]([H:13])[H:14])[O:7][H:10],67.702230000031
MR_433759_1,[C:1]1([H:9])([H:10])[O:6][C:4]([C:2]([H:11])([H:12])[H:13])=[C:5]([C:3]([H:14])([H:15])[H:16])[N:7]=[N:8]1>>[C:1]1([H:9])([H:10])[C:4]([C:2]([H:11])([H:12])[H:13])([C:5]2([C:3]([H:14])([H:15])[H:16])[N:7]=[N:8]2)[O:6]1,67.2692550000184
MR_63493_0,[N:1](=[C:2](\[N:3]([H:8])[H:9])[N:5]1[C:4]([H:10])=[N:6]1)\[H:7]>>[n:1]1([H:7])[c:2]([N:3]([H:8])[H:9])[n:5][n:6][c:4]1[H:10],32.50324500001213
MR_471030_0,[N:1]([O:3][H:6])(/[N:4]=[N:5]/[N:2]([H:8])[H:9])[H:7]>>[N:1](\[O:3][H:6])=[N:4]\[N:5]([N:2]([H:8])[H:9])[H:7],41.49532000003063
MR_698377_1,[C:1]([C:3]([O:6]/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]/[N:5]([H:9])[H:10])=[O:8])([H:11])([H:12])[H:13]>>[C:1]([C:3]([N:7]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:6])[N:5]([H:9])[H:10])=[O:8])([H:11])([H:12])[H:13],20.685537499993817
MR_38350_2,[C:1](/[N:7]=[C:4](\[N:6]=[C:3](\[C:2]([H:13])([H:14])[H:15])[O:5][H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]1([H:10])([H:12])[C:3]([C:2]([H:13])([H:14])[H:15])([O:5][H:8])[N:6]=[C:4]([H:9])[N:7]1[H:11],67.06908250002442
MR_546356_1,[C:1](/[C:2]([N:3]([H:9])[H:10])=[C:6](\[N:4]([H:11])[H:12])[H:16])([O:8][C:5](=[C:7]([H:17])[H:18])[H:15])([H:13])[H:14]>>[C:1]([C:2]([N:3]([H:9])[H:10])([C:5](=[C:7]([H:17])[H:18])[H:15])/[C:6](=[N:4]/[H:11])[H:16])([O:8][H:12])([H:13])[H:14],67.8980100000004
MR_464061_0,[C:1]([C:2]([C:4]([H:16])([H:18])[H:19])([C:5]([H:17])([H:20])[H:21])[H:12])([C:6]([C:3]([H:13])([H:14])[H:15])=[O:9])([O:7][H:10])[O:8][H:11]>>[C:1]1([O:7][H:10])([O:8][H:11])[C:6]([C:2]([C:4]([H:16])([H:18])[H:19])([C:5]([H:17])([H:20])[H:21])[H:12])([C:3]([H:13])([H:14])[H:15])[O:9]1,61.393344999979576
MR_433055_1,[C:1]1([H:14])([H:15])[C:5]([C:3]([H:19])([H:20])[H:21])(/[C:4](=[N:6]/[H:12])[N:7]([H:10])[H:13])[N:8]1[N:9]([C:2]([H:16])([H:17])[H:18])[H:11]>>[C:1]([C:5]([C:3]([H:19])([H:20])[H:21])=[C:4]([N:6]([H:11])[H:12])[N:7]([H:10])[H:13])(/[N:8]=[N:9]/[C:2]([H:16])([H:17])[H:18])([H:14])[H:15],44.036067500000655
MR_549340_1,[C:1]1([C:2]([H:15])([H:16])[H:17])([H:9])[C:3]([C:4]([N:6]([H:12])[H:13])=[C:7]([H:18])[H:19])([N:5]([H:10])[H:11])[N:8]1[H:14]>>[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:3]([C:4]([N:6]([H:12])[H:13])=[C:7]([H:18])[H:19])=[N:8]/[H:14])([N:5]([H:10])[H:11])[H:9],72.3325525000044
MR_524825_0,[C@:1](/[C:2]([O:6][H:8])=[N:7]\[H:14])([N:4]([H:12])[H:13])([O:5][N:3]([H:10])[H:11])[H:9]>>[C@@:1]1([N:4]([H:12])[H:13])([H:9])[C@@:2]([O:5][N:3]([H:10])[H:11])([O:6][H:8])[N:7]1[H:14],50.25961250001785
MR_377450_2,[C:1]([C:2]([C:4]([C:3]([H:15])([H:16])[H:17])=[O:8])([N:5]([H:13])[H:14])[H:12])([O:6][H:10])([O:7][H:9])[H:11]>>[C:1]([C:2]([C:4]([C:3]([H:15])([H:16])[H:17])([O:8][H:9])[H:11])([N:5]([H:13])[H:14])[H:12])([O:6][H:10])=[O:7],56.75298249999585
MR_10693_0,[C:1]([C:3]([H:12])([H:13])[H:14])([C:6]([C:2]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[H:11])=[O:8])([O:7][H:9])[H:10]>>[C:1]([C:3]([H:12])([H:13])[H:14])([C:6]([C:2]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[H:11])([O:8][H:9])[H:10])=[O:7],41.94774750002978
MR_289982_1,[C:1]([C:6]1([C:8]([H:18])([H:21])[H:22])[N:4]([H:11])[C:5]1([C:7]([C:2]([H:15])([H:16])[H:20])=[C:3]([H:17])[H:19])[O:9][H:10])([H:12])([H:13])[H:14]>>[C:1]([C:6]([N:4]([C:5](=[C:7]([C:2]([H:15])([H:16])[H:20])[C:3]([H:17])([H:18])[H:19])[O:9][H:10])[H:11])=[C:8]([H:21])[H:22])([H:12])([H:13])[H:14],54.92570250000796
MR_304246_2,[C:1]([C:2]([C:3](=[O:7])[H:9])=[C:4]([H:10])[H:11])([O:5][H:8])=[O:6]>>[C:1]([C:2](=[C:4]([H:10])[H:11])[O:5][H:8])([C:3](=[O:7])[H:9])=[O:6],67.23850749998903
MR_165778_1,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:5]([C:4]([N:6]=[O:7])=[O:8])=[O:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([C:5]([N:6]=[O:7])=[O:9])=[O:8])[H:10],46.30447999998054
MR_380546_1,[C:1]([N:3]([N:6][O:8])[H:10])(/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:7]/[O:5][H:9])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:3]([H:10])[C@:4]1([C:2]([H:13])([H:14])[H:15])[N:7]([O:5][H:9])[N:6]=[O:8],66.70011249999291
MR_32308_1,[C:1]([N:3]1[C:4]2([C:2]([H:11])([H:12])[H:13])[N:5]1[N:6]=[N:7]2)([H:8])([H:9])[H:10]>>[C:1]([n:3]1[c:4]([C:2]([H:11])([H:12])[H:13])[n:7][n:6][n:5]1)([H:8])([H:9])[H:10],15.63541750001022
